US09196837B2
The resulting 10-(biphenyl-4-yl)-12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole (42.5 g) and DMF (2.5 L) were added to a reaction vessel, and the mixture was heated up to 70° C. and dissolved. After cooled to a room temperature, N-bromo-succinimide (17.4 g) was added, and the mixture was stirred for 7 hours. Water (2.5 L) was added, and filtration was performed to obtain a white powder of 10-(biphenyl-4-yl)-7-bromo-12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole (34.9 g; yield 69.5%).

reactant | 10-(biphenyl-4-yl)-12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole | 42.5 g | C1(=CC=C(C=C1)C1C=CC2=CC=3C=C4N=C5C=CC=CC5=C4C(C3C2=C1)(C)C)C1=CC=CC=C1 | C33H25N
reactant | DMF | 2.5 L | CN(C)C=O | C3H7NO
reactant | N-bromo-succinimide | 17.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | Water | 2.5 L | O | H2O
product | 10-(biphenyl-4-yl)-7-bromo-12,12-dimethyl-10,12-dihydroindeno[2,1-b]carbazole | 34.9 g, yield 69.5% | C1(=CC=C(C=C1)C1C=CC2=C(C=3C=C4N=C5C=CC=CC5=C4C(C3C2=C1)(C)C)Br)C1=CC=CC=C1 | C33H24BrN
